US07423030B2
19.2. 5,7-Dimethoxy-4-ethyl-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 3,5-dimethoxy-2-propionylbenzoic acid with hydrazine hydrate.

reactant | 3,5-dimethoxy-2-propionylbenzoic acid | COC=1C(=C(C(=O)O)C=C(C1)OC)C(CC)=O | C12H14O5
reactant | hydrazine hydrate | O.NN
product | 5,7-Dimethoxy-4-ethyl-2H-phthalazin-1-one | COC1=C2C(=NNC(C2=CC(=C1)OC)=O)CC | C12H14N2O3
